US09108952B2
Step 3: Preparation of 4-chloro-N-ethyl-2-(pyridin-3-yl)thiazol-5-amine hydrochloride
To a dry 500 ml round bottom flask equipped with magnetic stirrer, thermometer, and nitrogen inlet was charged N-ethyl-2-(pyridin-3-yl)thiazol-5-amine (5.1 g, 25 mmol), diethyl ether (200 mL) and dioxane (5 mL). The resulting suspension (not all solid dissolved) was cooled to 5° C., and N-chlorosuccinamide (3.65 g, 27.3 mmol) was added portionwise. After all of the chlorinating agent was added, a brown solid precipitated from solution. The reaction mixture was stirred at 5° C. for 60 minutes, then analyzed by HPLC(YMC AQ column 5% ACN 95% water-0.05% TFA to 95% ACN 5% water with 0.05% TFA over 20 Min @ 1.0 ml/min). HPLC analysis showed no starting material and one major product consistent with the desired chloride. The brown suspension was filtered through a pad of Celite®, and the Celite® pad rinsed with diethyl ether (˜20 mL). The filtrate was cooled to 5° C. and acidified with stirring by the addition of 6.5 ml of 4M HCl in dioxane. A yellow solid immediately formed. The solid was collected by vacuum filtration, rinsed with diethyl ether, and dried in vacuo at 40° C. for 2 hours. This gave 4-chloro-N-ethyl-2-(pyridin-3-yl)thiazol-5-amine hydrochloride as a yellow solid (6.3 g, 92%): mp 180-182° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.07 (d, J=2.0 Hz, 1H), 8.70 (dd, J=5.4, 1.3 Hz, 1H), 8.59-8.42 (m, 1H), 7.86 (dd, J=8.2, 5.3 Hz, 1H), 5.27 (s, 5H), 3.20 (q, J=7.2 Hz, 2H), 1.23 (t, J=7.1 Hz, 3H); 13C NMR (101 MHz, DMSO-d6) δ 148.10, 140.19, 138.58, 137.91, 137.01, 132.06, 127.30, 115.89, 43.43, 13.87; Anal. Calcd. for C10H11Cl2N3S: C, 43.49; H, 4.01; Cl, 25.67; N, 15.21; S, 11.61. Found: C, 43.42: H, 4.01; Cl, 25.55; N, 14.99; S, 11.46.

reactant | N-ethyl-2-(pyridin-3-yl)thiazol-5-amine | 25 mmol, 5.1 g | C(C)NC1=CN=C(S1)C=1C=NC=CC1 | C10H11N3S
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | N-chlorosuccinamide | 27.3 mmol, 3.65 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-chloro-N-ethyl-2-(pyridin-3-yl)thiazol-5-amine hydrochloride | Cl.ClC=1N=C(SC1NCC)C=1C=NC=CC1 | InChI=1S/C10H10ClN3S.ClH/c1-2-13-10-8(11)14-9(15-10)7-4-3-5-12-6-7;/h3-6,13H,2H2,1H3;1H
